US05922703
A) 3-Hydroxy-1-Piperidinecarboxylic Acid, Phenylmethyl Ester
To a 1-liter 3-necked round bottom flask, equipped with mechanical stirrer and two addition funnels, is added 30 g (0.2966 mole) of 3-hydroxypiperidine and 300 ml of water. The resulting solution is stirred and is cooled to ~0° C. with ice-salt bath. At this point the benzyl chloroformate (51 ml, 0.356 mole) is added dropwise from one funnel and the 2N NaOH (178 ml) from the other funnel (at a slightly faster rate) during which time the temp. is maintained at ~0° C. After addition is complete, the mixture is stirred in the cold for 2 hr, then overnight at ambient temp. After this time an oily residue separates from the reaction solution. Ethyl acetate is added (250 ml) to the reaction and is stirred for 1/2 hr. The phases are separated and the aqueous phase is extracted once more with EtOAc (250 ml). All organic phases are combined, washed with 1×150 ml saturated NaHCO3, 1×150 ml H2O, 1×150 ml 10% HCl, 1×150 ml H2O and dried overMgSO4. The mixture is filtered and concentrated on a roto-evap under reduced pressure, to yield a viscous oil, which is stored under vacuum to remove any residual solvents as, 3-Hydroxy-1-piperidinecarboxylic Acid, Phenylmethyl Ester, a clear oil.

reactant | 3-hydroxypiperidine | 0.2966 mole, 30 g | OC1CNCCC1 | C5H11NO
reactant | water | 300 ml | O | H2O
reactant | benzyl chloroformate | 0.356 mole, 51 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | NaOH | 2N, 178 ml | [OH-].[Na+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Hydroxy-1-Piperidinecarboxylic Acid, Phenylmethyl Ester | OC1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C13H17NO3
